US05789425
The starting material, 1-(2-propynyl)-3-(3-pyridyl)-2-imidazolidinone was synthesized similarly to Referential example 1, using 1-(3-pyridyl)-2-imidazolidinone as material and using 3-bromopropyne in place of 4-fluoronitrobenzene.

reactant | 1-(3-pyridyl)-2-imidazolidinone | N1=CC(=CC=C1)N1C(NCC1)=O | C8H9N3O
reactant | 3-bromopropyne | BrCC#C | C3H3Br
product | 1-(2-propynyl)-3-(3-pyridyl)-2-imidazolidinone | C(C#C)N1C(N(CC1)C=1C=NC=CC1)=O | C11H11N3O
